US07342021B2
6-Cyclopropylamino-9-cyclopentyl-2-trifluoromethylpurine (Pragnacharyulu, P. V. P.; Varkhedkar, V.; Curtis, M. A.; Chang, I. F.; Abushanab, E., J. Med. Chem., 2000, 43, 4694-4700).
To a solution of 20 mg (0.08 mmol) 6-cyclopropylamino-2-trifluoromethylpurine, 42 mg (0.16 mmol) of PPh3, and 18 mg (0.21 mmol) cyclopentanol in THF under N2 atmosphere with magnetic stirring, was added 48 mg (0.23 mmol) DIAD. The resulting mixture was stirred at room temperature for 16 hours, concentrated, taken up in 10 mL H2O and extracted with 2×15 mL of ether. The organic layer was combined and dried over (MgSO4), concentrated in vacuo, and purified by chromatography over silica gel using 10% MeOH in CH2Cl2 to give the desired product. 1H NMR (CDCl3) 7.92 (s, 1H), 6.01 (bs, 1H), 4.98 (p, 1H), 3.18 (bs, 1H), 2.36-2.25 (m, 2H), 2.03-1.79 (m, 6H), 0.86 (dd, 2H), 0.65 (dd, 2H).

reactant | 6-cyclopropylamino-2-trifluoromethylpurine | 0.08 mmol, 20 mg | C1(CC1)NC1=C2NC=NC2=NC(=N1)C(F)(F)F | C9H8F3N5
reactant | PPh3 | 0.16 mmol, 42 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | cyclopentanol | 0.21 mmol, 18 mg | C1(CCCC1)O | C5H10O
reactant | DIAD | 0.23 mmol, 48 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 6-Cyclopropylamino-9-cyclopentyl-2-trifluoromethylpurine | C1(CC1)NC1=C2N=CN(C2=NC(=N1)C(F)(F)F)C1CCCC1 | C14H16F3N5
